US04597902
2-[2-[[N,N-bis(1-Methylethyl)]amino]ethyl]-2H-isoindole-1,3-dione, hydrochloride
A solution of 2-diisopropylaminoethyl chloride hydrochloride (40.0 g, 0.2 mole) and potassium phthalimide (74.0 g, 0.4 mole) as stirred overnight at 85° C. in 500 ml of dimethyl formamide. The reaction mixture was stirred to dryness on a rotary evaporator, and the residue was partitioned between chloroform and water. The chloroform layer was extracted with 10% sodium hydroxide. After drying and removal of solvent, a brown oil was obtained which slowly crystallized. A portion of the oil was converted to the hydrochloride salt and recrystallized from methanol/diethyl ether to give 4.18 g (62.3%) of white crystalline product, m.p. 209°-211° C.

reactant | 2-diisopropylaminoethyl chloride hydrochloride | 0.2 mole, 40.0 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | potassium phthalimide | 0.4 mole, 74.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethyl formamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-[2-[[N,N-bis(1-Methylethyl)]amino]ethyl]-2H-isoindole-1,3-dione, hydrochloride | 4.18 g, 62.3% | Cl.CC(C)N(C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | InChI=1S/C16H22N2O2.ClH/c1-11(2)17(12(3)4)9-10-18-15(19)13-7-5-6-8-14(13)16(18)20;/h5-8,11-12H,9-10H2,1-4H3;1H
